US04515788
Trifluoroacetic acid (5.2 ml) was added to a suspension of 7-[2-t-butoxycarbonylmethoxyimino-2-(4-thiazolyl)acetamido]-3-cephem-4-carboxylic acid (syn isomer) (1.3 g) in methylene chloride (2 ml) and anisole (1.3 ml) at ambient temperature and the mixture was stirred for 1.5 hours at the same temperature. To the resulting solution was added diisopropyl ether (40 ml) and n-hexane (30 ml) under stirring. The precipitates were collected by filtration, washed with solution of diisopropyl ether and n-hexane (1:1). The precipitates were added to a mixture of ethyl acetate and water and the mixture was adjusted to pH 7.5 with saturated aqueous solution of potassium carbonate. The separated aqueous layer was adjusted to pH 4.0 with 10% hydrochloric acid and the solution was washed with ethyl acetate. The resulting solution was adjusted to pH 1.8 with 10% hydrochloric acid under ice-cooling. The precipitates were collected by filtration, washed with cold water and dried over phosphorus pentoxide in vacuo to give 7-[2-carboxymethoxyimino-2-(4-thiazolyl)acetamido]-3-cephem-4-carboxylic acid (syn isomer) (1.0 g).

reactant | Trifluoroacetic acid | 5.2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 7-[2-t-butoxycarbonylmethoxyimino-2-(4-thiazolyl)acetamido]-3-cephem-4-carboxylic acid | 1.3 g | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)C=1N=CSC1 | C18H20N4O7S2
reactant | diisopropyl ether | 40 ml | C(C)(C)OC(C)C | C6H14O
reactant | n-hexane | 30 ml | CCCCCC | C6H14
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | anisole | 1.3 ml | C1(=CC=CC=C1)OC | C7H8O
product | 7-[2-carboxymethoxyimino-2-(4-thiazolyl)acetamido]-3-cephem-4-carboxylic acid | 1.0 g | C(=O)(O)CON=C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)C=1N=CSC1 | C14H12N4O7S2
